US05389633
Production of 6-(2,2-diethyl-3-sulfamoyl-1-propoxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine
In 20 ml of dimethylformamide was suspended 0.672 g of 60% sodium hydride in oil, followed by addition of 1.72 g of 3-hydroxy-2,2-diethyl-1-propanesulfonamide and the mixture was stirred under reduced pressure at room temperature for 1 hour. To this was added 1.35 g of 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine and the mixture was stirred under a nitrogen atmosphere at room temperature for 2 hours. Following addition of 70 ml of iced water, the reaction mixture was adjusted to pH 6 with 5N-hydrochloric acid and extracted with 3 portions of ethyl acetate-tetrahydrofuran (2:1). The extract was washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure and the residue was subjected to silica gel column chromatography, elution being carried out with dichloromethane-ethyl acetate-methanol (10:10:1). The fractions containing the object product were pooled and concentrated, and 50 ml of 5N-hydrochloric acid was added to the residue. The mixture was refluxed for 30 minutes. After cooling, the mixture was concentrated under reduced pressure and the residue was diluted with water and aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate-tetrahydrofuran (1:1). The extract was washed with saturated aqueous solution of sodium chloride once, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from hot ethanol to provide 0.79 g of the title compound. m.p. 189°-192° C.

reactant | sodium hydride | 0.672 g | [H-].[Na+]
reactant | 3-hydroxy-2,2-diethyl-1-propanesulfonamide | 1.72 g | OCC(CS(=O)(=O)N)(CC)CC | C7H17NO3S
reactant | 6-chloro-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 1.35 g | ClC=1C(=CC=2N(N1)N=CN2)C | C6H5ClN4
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 70 ml | O | H2O
product | 6-(2,2-diethyl-3-sulfamoyl-1-propoxy)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 0.79 g | C(C)C(COC=1C(=CC=2N(N1)N=CN2)C)(CS(N)(=O)=O)CC | C13H21N5O3S
